US06020345
Stage 2: 2-[1,3]dioxolan-2-yl-6-isopropylpyridine
A suspension of 0.60 g of 2-[1,3]dioxolan-2-yl-6-isopropenylpyridine (3.15 mmol) and 0.10 g of 10% palladium on carbon, in 7 ml of methanol is stirred vigorously under a low hydrogen pressure for 4 hours at room temperature. The solid is removed by filtration on celite and then the methanol is evaporated off. The title product is isolated by chromatography on a silica column (eluent: chloroform/ethyl acetate; 97:3). 0.40 g of a pale yellow oil is obtained.

reactant | 2-[1,3]dioxolan-2-yl-6-isopropenylpyridine | 3.15 mmol, 0.60 g | O1C(OCC1)C1=NC(=CC=C1)C(=C)C | C11H13NO2
catalyst | palladium on carbon | 0.10 g | [Pd] | Pd
solvent | methanol | 7 ml | CO | CH4O
product | 2-[1,3]dioxolan-2-yl-6-isopropylpyridine | O1C(OCC1)C1=NC(=CC=C1)C(C)C | C11H15NO2
